US06613786B2
A mixture of 4-chloro-2-nitrophenol (100 g), allyl bromide (69.7 g), and potassium carbonate (95.5 g) in acetone (1 L) was refluxed for 6 hours. After cooling to room temperature and filtration, the filtrate was concentrated to give a residue. The residue was extracted with dichloromethane. The organic layer was washed with water, dried over MgSO4, and concentrated in vacuo to give a crude product (110.9 g, 90%) which was used in the next step without purification. 42 g of the crude product was heated at 180° C. for 8 hours. Purification by flash chromatography over silica gel (elution with 50% ethyl acetate in hexanes) gave 22 g (50%) of 2-nitro-4-chloro-6-allylphenol. 1H NMR (300 MHz, CDCl3) δ8.00 (d, J=2.6 Hz, 1 H), 7.44 (d, J=2.6 Hz, 1 H), 6.00-5.89 (m, 1 H), 5.20-5.12 (m, 2 H), 3.48 (d, J=6.69 Hz, 2 H).

reactant | 4-chloro-2-nitrophenol | 100 g | ClC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | allyl bromide | 69.7 g | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 95.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 1 L | CC(=O)C | C3H6O
product | 2-nitro-4-chloro-6-allylphenol | 22 g, 50% | [N+](=O)([O-])C1=C(C(=CC(=C1)Cl)CC=C)O | C9H8ClNO3
